US07435859B2
First, a double-necked flask of 10 mL was subjected to vacuum and dried by heat, and subsequently, its volume was displaced with argon. Next, a solution obtained by solving hexahydrosumanene (0.0 11 mmol, 3 mg) into 2 mL of toluene was added into the flask by using a syringe, and DDQ (0.0385 mmol, 9 mg) further was added therein, and subsequently, the system was heated at 110° C. for 20 hours. After the reaction, the solvent was evaporated under a reduced pressure, and residues were separated by thin layer chromatography (hexane), thereby obtaining Sumanene (yield: 2 mg, isolation yield: 67%) as an objective compound. Physical properties of this compound will be described below. In addition, UV-VIS absorption spectrograms of this compound will be shown in FIGS. 1 to 5. Used solvents are cyclohexylamine (CHA) in FIG. 1, tetrahydrofuran (THF) in FIG. 2, acetonitrile (CH3CN) in FIG. 3 and dichloromethane (CH2Cl2) in FIG. 4, where concentrations of all the solutions are 1.0×10−4 M. Moreover, FIG. 5 is a view showing all of the spectrograms of FIGS. 1 to 4 in one.

reactant | DDQ | 0.0385 mmol, 9 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | Sumanene | yield: 2 mg, yield: 67% | C1C2=C3C4=C(CC5=C4C6=C(CC7=C6C3=C1C=C7)C=C5)C=C2 | C21H12
